US07799787B2
Step 4: 6-{4-[2-(Trifluoromethyl)phenoxyl]piperidin-1-yl}pyridazine-3-carboxamide
To a mixture of 6-{4-[2-(trifluoromethyl)phenoxy]piperidin-1-yl}pyridazine-3-carboxylic acid (250 mg, 0.7 mmol), HOBt (92 mg, 0.7 mmol), HATU (518 mg, 1.4 mmol) and ammonium chloride (74 mg, 1.4 mmol) in DMF (5 mL) was added N,N-diisopropylethylamine (592 μL, 3.4 mmol) at room temperature. The mixture was stirred at room temperature overnight, diluted with water and extracted with EtOAc. The organic extract was washed twice with 1N NaOH, brine, dried (Na2SO4) and concentrated. CombiFlash chromatography (10 g, 80-100% EtOAc in hexanes, 20 mL/min, 18 mL/fraction) gave the title compound as a white powder. 1H NMR (400 MHz, acetone-d6): δ 1.93-1.99 (m, 2H), 2.14-2.20 (m, 2H), 3.93-4.09 (m, 4H), 5.05 (s, 1H), 6.72 (s, 1H), 7.13 (t, 1H), 7.38 (m, 2H), 7.62-7.68 (m, 2H), 7.84 (s, 1H), 7.94 (d, 1H). MS (+ESI) m/z 367 (MH+).

reactant | 6-{4-[2-(trifluoromethyl)phenoxy]piperidin-1-yl}pyridazine-3-carboxylic acid | 0.7 mmol, 250 mg | FC(C1=C(OC2CCN(CC2)C2=CC=C(N=N2)C(=O)O)C=CC=C1)(F)F | C17H16F3N3O3
reactant | HOBt | 0.7 mmol, 92 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | HATU | 1.4 mmol, 518 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | ammonium chloride | 1.4 mmol, 74 mg | [Cl-].[NH4+]
reactant | N,N-diisopropylethylamine | 3.4 mmol, 592 μL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 6-{4-[2-(Trifluoromethyl)phenoxyl]piperidin-1-yl}pyridazine-3-carboxamide | FC(C1=C(OC2CCN(CC2)C2=CC=C(N=N2)C(=O)N)C=CC=C1)(F)F | C17H17F3N4O2
